US05348953
Step A: Preparation of N,N-diisopropyl-N'-benzyloxy-carbonyl-ethylenediamine
N,N-Diisopropyl-ethylenediamine (4.94 gm, 0.034 mol) was dissolved in CH2Cl2 (20 mL) and cooled to 0° C. under nitrogen. Triethylamine (4.7 mL) and benzyloxycarbonyl chloride (4.9 mL) were then added and the mixture was stirred overnight while being allowed to reach room temperature. The mixture was then poured into Et2O (250 mL) and K2CO3 was added. This mixture was then washed successively with H2O and brine and the pooled aqueous layers were back-extracted with Et2O. The pooled organic layers were dried over Na2SO4, filtered and evaporated to dryness. This crude reaction product was then purified on a silica gel column using initially EtOAc/hexane (1:1) as eluent followed by MeOH/EtOAc (3:7) containing 2% Et3N to afford 2.9 gm of the title compound suitable for use in the next step.

reactant | N,N-Diisopropyl-ethylenediamine | 0.034 mol, 4.94 gm | C(C)(C)N(CCN)C(C)C | C8H20N2
reactant | Triethylamine | 4.7 mL | C(C)N(CC)CC | C6H15N
reactant | benzyloxycarbonyl chloride | 4.9 mL | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 250 mL | CCOCC | C4H10O
product | N,N-diisopropyl-N'-benzyloxy-carbonyl-ethylenediamine | 2.9 gm | C(C)(C)N(C(CNOCC1=CC=CC=C1)=C=O)C(C)C | C16H24N2O2
